US04166813
2,2-Bis[4-{2-hydroxy-3-[N-methyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]propoxy}phenyl]propane (Compound No. 21)
To 50 ml of methanol were added 3.4 g of 2,2,6,6-tetramethyl-4-methylaminopiperidine and 3.4 g of 2,2-bis[p-(2,3-epoxypropoxy)phenyl]propane; the mixture was then reacted in a manner similar to that described in Example 1, giving the desired compound in the form of a white powder. The compound had an Rf value of 0.50 on thin layer chromatography on silica gel developed with a 1:3:1 by volume mixture of methanol, ethyl acetate and triethylamine.

reactant | 2,2,6,6-tetramethyl-4-methylaminopiperidine | 3.4 g | CC1(NC(CC(C1)NC)(C)C)C | C10H22N2
reactant | 2,2-bis[p-(2,3-epoxypropoxy)phenyl]propane | 3.4 g | O1C(COC2=CC=C(C=C2)C(C)(C)C2=CC=C(C=C2)OCC2CO2)C1 | C21H24O4
solvent | methanol | 50 ml | CO | CH4O
product | 2,2-Bis[4-{2-hydroxy-3-[N-methyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]propoxy}phenyl]propane | OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN(C)C1CC(NC(C1)(C)C)(C)C)O)CN(C1CC(NC(C1)(C)C)(C)C)C | C41H68N4O4
